### PR TITLE
[Merged by Bors] - feat(Tactic/ComputeAsymptotics/Multiseries): basic constructions

### PR DESCRIPTION
**Pull request by vasnesterov**
Introduce basic constructions for multiseries: `const`, `monomial`, `monomialRpow`.

---

This is a part of the `compute_asymptotics` tactic (#28291).

- [x] depends on: #40255

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,292 @@
...
+
+@[simp]
+theorem zero_toFun {basis : Basis} : (@zero basis).toFun = 0 := by
+  match basis with
+  | [] => rfl
+  | List.cons _ _ => rfl
+
+@[simp]
+theorem zero_seq {basis_hd : ℝ → ℝ} {basis_tl : Basis} :
+    (0 : Multiseries basis_hd basis_tl) = .nil := rfl
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]: Is this coercion the same as the `.seq` above in `const_seq`?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,292 @@
...
+  rfl
+
+@[simp]
+theorem one_seq {basis_hd : ℝ → ℝ} {basis_tl : Basis} :
+    (@one (basis_hd :: basis_tl)).seq = Multiseries.one := by
+  simp [one, Multiseries.one, const]
+
+mutual
+
+theorem Multiseries.const_Sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} {c : ℝ} :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem Multiseries.const_sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} {c : ℝ} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,292 @@
...
+    (Multiseries.const basis_hd basis_tl c).Sorted := by
+  simp only [Multiseries.const]
+  exact const_Sorted.cons_nil
+
+/-- Constants are well-ordered. -/
+theorem const_Sorted {basis : Basis} {c : ℝ} :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem const_sorted {basis : Basis} {c : ℝ} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,292 @@
...
+    (const basis c).Sorted := by
+  cases basis with
+  | nil => constructor
+  | cons basis_hd basis_tl =>
+    simpa only [const, sorted_iff_seq_sorted, mk_seq] using Multiseries.const_Sorted
+
+end
+
+/-- Zero is well-ordered. -/
+theorem zero_Sorted {basis : Basis} : (0 : MultiseriesExpansion basis).Sorted := by
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem zero_sorted {basis : Basis} : (0 : MultiseriesExpansion basis).Sorted := by
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,292 @@
...
+  cases basis with
+  | nil => constructor
+  | cons => apply Sorted.nil
+
+theorem Multiseries.one_Sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem Multiseries.one_sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,292 @@
...
+    (Multiseries.one : Multiseries basis_hd basis_tl).Sorted :=
+  Multiseries.const_Sorted
+
+/-- `one` is Sorted. -/
+theorem one_Sorted {basis : Basis} : one.Sorted (basis := basis) :=
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem one_sorted {basis : Basis} : one.Sorted (basis := basis) :=
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,292 @@
...
+  const_Sorted
+
+-- TODO : move it
+/-- The constant multiseries approximates the constant function. -/
+theorem const_Approximates {c : ℝ} {basis : Basis} (h_basis : WellFormedBasis basis) :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem const_approximates {c : ℝ} {basis : Basis} (h_basis : WellFormedBasis basis) :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,292 @@
...
+  cases basis with
+  | nil => simp
+  | cons basis_hd basis_tl =>
+    simp only [const, Multiseries.const]
+    apply (const_Approximates h_basis.tail).cons _ (by simp)
+    exact Majorized.const <| h_basis.tendsto_atTop (by simp)
+
+-- TODO : move it
+/-- `zero` approximates the zero function. -/
+theorem zero_Approximates {basis : Basis} :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem zero_approximates {basis : Basis} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,292 @@
...
+    (@zero basis).Approximates := by
+  cases basis with
+  | nil => simp [zero]
+  | cons => exact Approximates.nil (by rfl)
+
+/-- `one` approximates the unit function. -/
+theorem one_Approximates {basis : Basis} (h_basis : WellFormedBasis basis) :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem one_approximates {basis : Basis} (h_basis : WellFormedBasis basis) :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,292 @@
...
+  | cons basis_hd basis_tl => cases n using Fin.cases <;> simp [monomialRpow]
+
+@[simp]
+theorem monomialRpow_seq {basis_hd : ℝ → ℝ} {basis_tl : Basis} {n : ℕ} {r : ℝ} :
+    (monomialRpow (basis_hd :: basis_tl) n r).seq = Multiseries.monomialRpow _ _ n r := by
+  simp [monomialRpow]
+
+mutual
+
+theorem Multiseries.monomialRpow_Sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} {n : ℕ} {r : ℝ} :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem Multiseries.monomialRpow_sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} {n : ℕ} {r : ℝ} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,292 @@
...
+  cases n with
+  | zero =>
+    simp only [Multiseries.monomialRpow]
+    exact Sorted.cons_nil const_Sorted
+  | succ m =>
+    simp only [Multiseries.monomialRpow]
+    exact Sorted.cons_nil monomialRpow_Sorted
+
+/-- `monomial` is well-ordered. -/
+theorem monomialRpow_Sorted {basis : Basis} {n : ℕ} {r : ℝ} :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem monomialRpow_sorted {basis : Basis} {n : ℕ} {r : ℝ} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,292 @@
...
+    (monomialRpow basis n r).Sorted := by
+  cases basis with
+  | nil => constructor
+  | cons basis_hd basis_tl =>
+    simpa only [sorted_iff_seq_sorted, monomialRpow_seq] using Multiseries.monomialRpow_Sorted
+
+end
+
+/-- `monomialRpow` approximates the monomial function. -/
+theorem monomialRpow_Approximates {basis : Basis} {n : Fin (List.length basis)} {r : ℝ}
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem monomialRpow_approximates {basis : Basis} {n : Fin (List.length basis)} {r : ℝ}
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,292 @@
...
+theorem monomial_toFun' {basis : Basis} {n : Fin basis.length} :
+    (monomial basis n).toFun = basis[n] := by
+  simp
+
+@[simp]
+theorem monomial_seq {basis_hd : ℝ → ℝ} {basis_tl : Basis} {n : ℕ} :
+    (monomial (basis_hd :: basis_tl) n).seq = Multiseries.monomial _ _ n :=
+  monomialRpow_seq
+
+theorem Multiseries.monomial_Sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} {n : ℕ} :
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem Multiseries.monomial_sorted {basis_hd : ℝ → ℝ} {basis_tl : Basis} {n : ℕ} :
```

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,292 @@
...
+    (@Multiseries.monomial basis_hd basis_tl n).Sorted :=
+  Multiseries.monomialRpow_Sorted
+
+/-- `monomial` is well-ordered. -/
+theorem monomial_Sorted {basis : Basis} {n : ℕ} : (monomial basis n).Sorted :=
+  monomialRpow_Sorted
+
+/-- `monomial` approximates the monomial function. -/
+theorem monomial_Approximates {basis : Basis} {n : Fin (List.length basis)}
```
Comment (j-loreaux) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]:
```suggestion
theorem monomial_approximates {basis : Basis} {n : Fin (List.length basis)}
```

**Review by j-loreaux — COMMENTED** [review]
the naming conventions dictate that names are converted to lowerCamelCase when they are referenced in the names of other declarations.

Other than that, this looks fine to me. It's relatively straightforward.

**Comment by j-loreaux** [comment]
@joneugster I see you self-requested a review. Feel free to merge after the naming conventions are taken care of as long as you don't have other major issues. @vasnesterov if Jon doesn't come by for review within the next several days, let me know and I'll just merge this.

bors d=joneugster

**Comment by j-loreaux** [comment]
aha, I've just found #40255 and merged it.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean (hunk 1 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Basic.lean]: Oh, it's actually equal to `Multiseries.zero_def`, I'll remove the duplication

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge

**Comment by vasnesterov** [comment]
@j-loreaux Sorry, can you please merge this again?

**Comment by j-loreaux** [comment]
bors merge
